US05885999
d) N-[2-(Piperazin-1-yl)phenyl]methanesulfonamide
A solution of the product of N-[2-(4-benzylpiperazin-1-yl)phenyl]methanesulfonamide (2.83 g, 8.2 mmol) in methanol (40 mL) was purged with nitrogen (0.25 hour). Ammonium formate (1.55 g, 24.6 mmol), formic acid (0.31 mL, 8.21 mmol) and palladium on activated charcoal (0.5 g) were added. The mixture was heated at reflux for 2 h., cooled, filtered, and the solvent was evaporated under reduced pressure. The residue was diluted with ethyl acetate and washed with aqueous potassium carbonate (saturated, 3×). The organic layer was dried (MgSO4) and the solvent was evaporated under reduced pressure to give the title compound as a pale yellow crystalline solid (1.196 g, 57%), δH (250 MHz, CDCl3) 7.52 (1H, dd, J 1.6, 8.0 Hz), 7.23-7.05 (4H, m), 3.06 (3H, s), 3.06-3.02 (4H, m), 2.85-2.78 (4H, m), and 1.80 (1H, br s).

reactant | N-[2-(4-benzylpiperazin-1-yl)phenyl]methanesulfonamide | 8.2 mmol, 2.83 g | C(C1=CC=CC=C1)N1CCN(CC1)C1=C(C=CC=C1)NS(=O)(=O)C | C18H23N3O2S
reactant | Ammonium formate | 24.6 mmol, 1.55 g | C(=O)[O-].[NH4+]
reactant | formic acid | 8.21 mmol, 0.31 mL | C(=O)O | CH2O2
solvent | methanol | 40 mL | CO | CH4O
catalyst | palladium on activated charcoal | 0.5 g | [Pd] | Pd
product | N-[2-(Piperazin-1-yl)phenyl]methanesulfonamide | 1.196 g, 57% | N1(CCNCC1)C1=C(C=CC=C1)NS(=O)(=O)C | C11H17N3O2S
